* C:\Users\ericj\OneDrive\Documents\GitHub\EE-352-Project\LT SPICE\Final Project.asc
X§Oscillator V- 0 N006 V+ oscillator_block
X§Switching_Modulator N006 Vin 0 N005 V+ V- switching_modulator
V1 V+ 0 12V
V2 V- 0 -12V
V3 Vin 0 SINE(0 100m 1k 0 0 0 0)

* block symbol definitions
.subckt oscillator_block V- Gnd out V+
R1 N003 N001 40k
R2 N001 out 80k
C_1 N004 P001 4.7n
R_1 P001 out 470
R_2 N004 Gnd 470
C_2 N004 Gnd 4.7n
D1 N001 N002 1N914
D2 N005 N001 1N914
V1 N003 Gnd PWL(0 0 1m 1m 2m 0)
R3_2 V+ N002 1k
R4_2 N002 out 1k
R4_1 out N005 1k
R3_1 N005 V- 1k
X§U1 N004 N001 V+ V- out OP27
.ends oscillator_block

.subckt switching_modulator carrier in gnd out V+ V-
Re out gnd 1Meg
D1 N002 out 1N914
X§U3 N003 N001 V+ V- N002 OP27
R5 N001 N002 40k
R6 gnd N001 10k
R7 carrier N003 10k
R8 in N003 2.5k
.ends switching_modulator

.model D D
.lib C:\Users\ericj\AppData\Local\LTspice\lib\cmp\standard.dio
* BNC Cable
* Reciever
* Transmitter
* (Eventually Antenna)
.tran 0 20m 12m 100u
.lib ADI.lib
.backanno
.end
